US07795288B2
(3-Bromophenyl)-acetaldehyde
The title compound is prepared as described in Example 12 (Procedure B) for 3-thiophenylacetaldehyde but using 3-bromophenyl-ethanol. The title compound: ES-MS: 196.9 [M-2]−; single peak at tR=3.89 min (System 2); Rf=0.66 (CH2Cl2/Et2O, 95/5).

reactant | 3-thiophenylacetaldehyde | S1C=C(C=C1)CC=O | C6H6OS
reactant | 3-bromophenyl-ethanol | BrC=1C=C(C=CC1)C(C)O | C8H9BrO
solvent | CH2Cl2 Et2O | C(Cl)Cl.CCOCC
product | (3-Bromophenyl)-acetaldehyde | BrC=1C=C(C=CC1)CC=O | C8H7BrO
